2161-03-21 07:16:00 Physician Resident Progress Note
Chief Complaint: Lower GI Bleed
   24 Hour Events:
 ENDOSCOPY - At [**2161-3-20**] 02:00 PM
 SHEATH - STOP [**2161-3-20**] 06:13 PM
 TRAUMA LINE - START [**2161-3-21**] 02:26 AM
   - scoped by GI, no sites of active bleeding found
   - sent back to IR - no active bleeding site found
   - post mesenteric angiography, arterial sheath pulled.  within one hour
   of patient returning to floor, abdomen became exquisitely tender,
   already eing transfused upon return then dropped pressures.  Pt
   required 8u pRBCs, 3 FFP, 3 platelets.  Taken to CT for emergent CT
   ABD/PEL started on pressure in ED CT scanner for SBP's in 70s with 2u
   pRBCs open-wide.  Large hematome [**1-26**] arterial bleed from traumatic
   sheath pull.  Vascular and IR consulted, no intervention thought to be
   warranted as patient's pressure came up ad pressure stopped after 2
   hours.  However, pt developed worsened abdominal distention and bladder
   pressure 22, again no intervention felt to be warranted.
   - cordis placed in left subclavian
   Allergies:
   Codeine
   Nausea/Vomiting
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2161-3-20**] 10:50 AM
   Midazolam (Versed) - [**2161-3-20**] 02:15 PM
   Fentanyl - [**2161-3-20**] 03:00 PM
   Pantoprazole (Protonix) - [**2161-3-20**] 08:59 PM
   Morphine Sulfate - [**2161-3-21**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-21**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 99 (88 - 150) bpm
   BP: 142/69(88) {81/42(52) - 178/88(108)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 49.5 kg (admission): 49.5 kg
   Height: 59 Inch
           Total In:
                                                                  9,360 mL
                                                                  3,780 mL
   PO:
           TF:
   IVF:
                                                                  2,943 mL
                                                                  2,117 mL
   Blood products:
                                                                  4,917 mL
                                                                  1,663 mL
   Total out:
                                                                  4,420 mL
                                                                    440 mL
   Urine:
                                                                  2,320 mL
                                                                    440 mL
   NG:
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                  4,940 mL
                                                                  3,340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Bowel sounds present, Distended, Tender: exquisitely
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   383 K/uL
   11.6 g/dL
   211 mg/dL
   0.9 mg/dL
   16 mEq/L
   4.6 mEq/L
   6 mg/dL
   114 mEq/L
   142 mEq/L
   33.7 %
   21.9 K/uL
        [image002.jpg]
                             [**2161-3-20**]  01:36 AM
                             [**2161-3-20**]  02:47 AM
                             [**2161-3-20**]  07:36 AM
                             [**2161-3-20**]  11:36 AM
                             [**2161-3-20**]  03:45 PM
                             [**2161-3-20**]  06:38 PM
                             [**2161-3-20**]  10:03 PM
                             [**2161-3-21**]  01:13 AM
                             [**2161-3-21**]  04:00 AM
                             [**2161-3-21**]  06:07 AM
   WBC
   8.0
   11.4
   11.5
   21.9
   Hct
   29.0
   27.1
   39.3
   36.2
   34.2
   27
   27.0
   32.3
   36.0
   33.7
   Plt
   288
   276
   238
   383
   Cr
   1.0
   0.9
   0.8
   0.9
   TropT
   <0.01
   Glucose
   106
   105
   117
   211
   Other labs: PT / PTT / INR:18.8/29.3/1.7, CK / CKMB /
   Troponin-T:124/6/<0.01, ALT / AST:21/33, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:76.9 %, Lymph:15.2 %, Mono:4.3 %, Eos:3.0 %,
   Fibrinogen:192 mg/dL, Lactic Acid:1.0 mmol/L, Ca++:6.8 mg/dL, Mg++:1.5
   mg/dL, PO4:6.2 mg/dL
   Imaging: CT ABD - Large right-sided retroperitoneal hematoma.
   Assessment and Plan
 CHRONIC PAIN
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   [**Age over 90 58**]F with hx recent GIB presenting with recurrence of BRBPR today, and
   Hct 36.
   .
   # BRBPR: Ddx of the rectal bleeding includes bleed from AVM,
   diverticular bleed, ischemic colitis, hemorrhoid. Less likely to be be
   brisk upper GIB.
   - Access: 3 PIVs
   - T&C x 4 active and ready
   - NPO
   - GI recs: discuss possible scope with pt, start Golytely prep, PPI,
   team will see in AM unless becomes unstable
   - If more bleeding, will obtain surgery c/s and IR for taggged RBC scan
   and possible intervention
   - IV PPI
   - No need for NGL at this time, GI agrees
   .
   # Hx CVA: Off Aggrenox x 5 days.
   - Hold aggrenox for now in setting of acute bleeding
   - Consider starting ASA as per neuro notes in [**Last Name (LF) 179**], [**First Name3 (LF) 116**] discuss with GI
   .
   # HTN: On Diovan & Norvasc at home.
   - Hold antihypertensives tonight
   .
   # Chronic cough: Per pt she has had a cough x months. No sputum or
   hemoptysis. No CP or SOB. Possible chronic bronchitis.
   - CXR now to eval for infiltrate
   .
   # Chronic facial neuralgia: Ongoing x 1 year. Relieved with Tylenol and
   Tramadol.
   - Continue tylenol
   - Hold Tramadol for now
   - No Motrin
   .
   # Hypothyroidism: Continue Levoxyl
   .
   # Glaucoma L eye: Continue gtts
   .
   # Celiac disease: Stable.
   .
   # FEN/GI - NPO / replete lytes /
   .
   # Access - PIVs: two 16g and one 18g
   .
   # Code - DNR/I, confirmed with patient
   .
   # Communication: With patient; contact: [**Name (NI) 2799**] [**Name (NI) 5052**] [**Telephone/Fax (1) 5053**]
   (cell), [**Telephone/Fax (1) 5054**] (home)
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-20**] 12:12 AM
   Trauma line - [**2161-3-21**] 02:26 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2161-03-22 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Surgery Res: Continue to resuscitate with PRBCs, transfuse platelets
   given Aggrenox, recommend angiography
   - Hct trend 33.8 --> 31.9 --> 31 --> 31.3 --> 29.3
   - Plan to transfuse for Hct < 30
   - Bladder pressure 21
   - Klonipin 0.5mg [**Hospital1 **] at home, started on 0.5mg QHS PRN
   - Vascular: Serial hematocrits; Monitor Urine output Q1 hour and
   monitor respiratory status; Monitor for tachycardia and blood pressure
   - Replete KPhos
   - [**3-21**] Sputum
    GRAM STAIN (Final [**2161-3-21**]):
         [**10-18**] PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Allergies:
   Codeine
   Nausea/Vomiting
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2161-3-21**] 11:32 AM
   Levofloxacin - [**2161-3-21**] 02:04 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2161-3-21**] 05:19 PM
   Pantoprazole (Protonix) - [**2161-3-21**] 07:41 PM
   Lorazepam (Ativan) - [**2161-3-22**] 01:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-22**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 84 (84 - 106) bpm
   BP: 144/60(81) {108/53(43) - 177/89(101)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 49.5 kg (admission): 49.5 kg
   Height: 59 Inch
    Bladder pressure: 21 (21 - 21) mmHg
   Total In:
                                                                  4,558 mL
                                                                     27 mL
   PO:
   TF:
   IVF:
                                                                  2,895 mL
                                                                     27 mL
   Blood products:
                                                                  1,663 mL
   Total out:
                                                                  1,225 mL
                                                                    295 mL
   Urine:
                                                                  1,125 mL
                                                                    295 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  3,333 mL
                                                                   -268 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: anicteric
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   203 K/uL
   11.1 g/dL
   94 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.6 mEq/L
   17 mg/dL
   111 mEq/L
   143 mEq/L
   29.2 %
   14.0 K/uL
        [image002.jpg]
                             [**2161-3-21**]  01:13 AM
                             [**2161-3-21**]  04:00 AM
                             [**2161-3-21**]  06:07 AM
                             [**2161-3-21**]  07:40 AM
                             [**2161-3-21**]  10:00 AM
                             [**2161-3-21**]  01:19 PM
                             [**2161-3-21**]  04:10 PM
                             [**2161-3-21**]  07:43 PM
                             [**2161-3-21**]  11:59 PM
                             [**2161-3-22**]  03:56 AM
   WBC
   21.9
   12.4
   14.0
   Hct
   32.3
   36.0
   33.7
   33.1
   33.8
   31.9
   31.0
   31.3
   29.3
   29.2
   Plt
   383
   265
   203
   Cr
   0.9
   0.9
   Glucose
   211
   94
   Other labs: PT / PTT / INR:13.3/26.6/1.1, CK / CKMB /
   Troponin-T:124/6/<0.01, ALT / AST:21/33, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:76.9 %, Lymph:15.2 %, Mono:4.3 %, Eos:3.0 %,
   Fibrinogen:192 mg/dL, Lactic Acid:1.0 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Imaging:
    cxr [**3-21**]: Left subclavian vascular sheath has been placed, terminating
   in the left
   brachiocephalic vein. Focal kinking of a catheter sheath is present at
   the
   expected skin insertion site. Nasogastric tube terminates in proximal
   stomach
   with distal tip directed cephalad. New patchy right lower lobe opacity
   and
   worsening patchy left retrocardiac opacity. Differential diagnosis
   includes
   aspiration, atelectasis and developing infectious pneumonia.
   [**3-21**] ct a/p: 1. Extensive retroperitoneal bleed extending from the
   hepatic dome to the
   right inguinal region.
   2. Pancreatic hypodensities, evaluated on this non-contrast exam.
   Microbiology: [**3-21**] sputum: [**2161-3-21**] 2:23 pm SPUTUM      Source:
   Expectorated.
      GRAM STAIN (Final [**2161-3-21**]):
         [**10-18**] PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 CHRONIC PAIN
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   [**Age over 90 58**]F with hx recent GIB presenting with recurrence of BRBPR, s/p angio
   w/o source identified, c/b large RP bleed on sheath pull, and
   aspiration PNA.
   #Aspiration Event: concerning for PNA given continued hypoxia &
   productive cough.  Leukocytosis improved.  Cultures with Pseudomonas.
   - Continue Levofloxacin / Vancomycin
   - Follow-up cultures
   - S&S evaluation
   # RP Bleed: S/p IR mesenteric angiography x 2 on [**3-20**] and sheath pull.
   Then dropped pressures to SBP 70s with enlarging, distended abdomen and
   increased abdominal pain.  Briefly required Dopamine.  [**3-20**] CT Abdomen
   with large RP bleed.  Now with e/o tamponade.
   - Monitor Hct Q6H
   - Transfuse for HCT < 30
   - Vascular & IR recs
    - Monitor uop; bladder pressure ([**3-21**] was 22), will recheck
   .
   # BRBPR: Ddx of the rectal bleeding includes bleed from AVM,
   diverticular bleed, ischemic colitis, hemorrhoid. Less likely to be be
   brisk upper GIB.   Colonoscopy found blood from above & couldn
t reach
   cecum.  Suspect in cecum or small intestine.  Surgery involved and
   think R hemicolectomy could be an option if newly unstable, though this
   is not an ideal options
   - Access: Trauma line, PIV
   - Hct monitoring as above
   - Surgery, GI & IR recs
   - IV PPI
   - NGT in place to intermittent suction, will discontinue [**2161-3-22**]
   .
   # Hx CVA: Off Aggrenox x 5 days.
   - Hold aggrenox for now in setting of acute bleeding
   - Consider starting ASA as per neuro notes in OMR, in distant future
   once stabilizing
   .
   # HTN: On Diovan & Norvasc at home.
   - Holding antihypertensives; consider restarting soon if her BP
   increases
   .
   # Chronic cough: Per pt she has had a cough x months. No sputum or
   hemoptysis. No CP or SOB. Possible chronic bronchitis.
   - Concerning for aspiration, S&S evaluation
   - IV PPI
   .
   # Chronic facial neuralgia: Ongoing x 1 year. Relieved with Tylenol and
   Tramadol. Holding Tramadol for now.
   - Continue Tylenol & Morphine PRN
   - Klonipin 0.5mg [**Hospital1 **] PRN
   .
   # Hypothyroidism: Continue Levoxyl
   # Glaucoma L eye: Continue gtts
   # Celiac disease: Stable; will get Nutrition consult for dietery recs
   # FEN/GI - NPO / replete lytes /  IVF PRN
   # Access -   Trauma line - [**2161-3-21**] 02:26 AM
   # Code - DNR/I, confirmed with patient
   # Communication: With patient; contact: [**Name (NI) 2799**] [**Name (NI) 5052**] [**Telephone/Fax (1) 5053**]
   (cell), [**Telephone/Fax (1) 5054**] (home)
   # Dispo - ICU

2161-03-23 07:30:00 Physician Resident Progress Note
Chief Complaint: Lower GI Bleed
   24 Hour Events:
   - NGT d/c'd
   - OOB to chair
   - Hct stable at 29, held on further transfusions
   - sent gas off the SC CVL to make sure it is venous: confirmed
   - probable call out in AM
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Nausea/Vomiting
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2161-3-21**] 11:32 AM
   Levofloxacin - [**2161-3-21**] 02:04 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-3-22**] 08:11 PM
   Morphine Sulfate - [**2161-3-22**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2161-3-23**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 82 (71 - 98) bpm
   BP: 164/73(96) {120/49(60) - 164/102(106)} mmHg
   RR: 26 (18 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49.5 kg (admission): 49.5 kg
   Height: 59 Inch
             Total In:
                                                                    732 mL
                                                                     74 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                    382 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    765 mL
                                                                    275 mL
   Urine:
                                                                    765 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -33 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Distended, Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   206 K/uL
   10.9 g/dL
   103 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.5 mEq/L
   17 mg/dL
   106 mEq/L
   139 mEq/L
   31.1 %
   11.5 K/uL
        [image002.jpg]
                             [**2161-3-21**]  10:00 AM
                             [**2161-3-21**]  01:19 PM
                             [**2161-3-21**]  04:10 PM
                             [**2161-3-21**]  07:43 PM
                             [**2161-3-21**]  11:59 PM
                             [**2161-3-22**]  03:56 AM
                             [**2161-3-22**]  10:11 AM
                             [**2161-3-22**]  04:05 PM
                             [**2161-3-22**]  11:12 PM
                             [**2161-3-23**]  03:21 AM
   WBC
   14.0
   11.5
   Hct
   33.8
   31.9
   31.0
   31.3
   29.3
   29.2
   29.3
   29.9
   30.4
   31.1
   Plt
   203
   206
   Cr
   0.9
   0.9
   Glucose
   94
   103
   Other labs: PT / PTT / INR:13.3/26.6/1.1, CK / CKMB /
   Troponin-T:124/6/<0.01, ALT / AST:21/33, Alk Phos / T Bili:64/1.8,
   Differential-Neuts:76.9 %, Lymph:15.2 %, Mono:4.3 %, Eos:3.0 %,
   Fibrinogen:192 mg/dL, Lactic Acid:1.0 mmol/L, Ca++:8.1 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 CHRONIC PAIN
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   [**Age over 90 58**]F with hx recent GIB presenting with recurrence of BRBPR, s/p angio
   w/o source identified, c/b large RP bleed on sheath pull, and
   aspiration PNA.
   #Aspiration Event: concerning for PNA given continued hypoxia &
   productive cough.  Leukocytosis improved.  Cultures with Pseudomonas.
   CXR slightly worsened today.
   - Continue Levofloxacin / Vancomycin
   - Follow-up cultures
   - S&S evaluation
   - Encourage deep breathing, incentive spirometry
   # RP Bleed: S/p IR mesenteric angiography x 2 on [**3-20**] and sheath pull.
   Then dropped pressures to SBP 70s with enlarging, distended abdomen and
   increased abdominal pain.  Briefly required Dopamine.  [**3-20**] CT Abdomen
   with large RP bleed.  Now with e/o tamponade.
   - Monitor Hct [**Hospital1 **]
   - Transfuse for HCT < 30
   - Vascular & IR recs; ? need to eval for pseudoaneurysm
    - Monitor uop; not checking bladder pressures any longer
   .
   # BRBPR: Ddx of the rectal bleeding includes bleed from AVM,
   diverticular bleed, ischemic colitis, hemorrhoid. Less likely to be be
   brisk upper GIB.   Colonoscopy found blood from above & couldn
t reach
   cecum.  Suspect in cecum or small intestine.  Surgery involved and
   think R hemicolectomy could be an option if newly unstable, though this
   is not an ideal options
   - Access: Trauma line, PIV
   - Hct monitoring as above
   - Surgery, GI & IR recs
   - IV PPI
   - ADAT
   .
   # Hx CVA: Off Aggrenox x 5 days.
   - Hold aggrenox for now in setting of acute bleeding
   - Consider starting ASA as per neuro notes in OMR, in distant future
   once stabilizing
   .
   # HTN: On Diovan & Norvasc at home.
   - Holding antihypertensives; restarting Diovan today
   - One dose lasix 10 IV x 1 today for diuresis
   .
   # Chronic cough: Per pt she has had a cough x months. No sputum or
   hemoptysis. No CP or SOB. Possible chronic bronchitis.
   - Concerning for aspiration, S&S evaluation
   - IV PPI
   .
   # Chronic facial neuralgia: Ongoing x 1 year. Relieved with Tylenol and
   Tramadol. Holding Tramadol for now.
   - Continue Tylenol & Morphine PRN
   - Klonipin 0.5mg [**Hospital1 **] PRN
   .
   # Hypothyroidism: Continue Levoxyl
   # Glaucoma L eye: Continue gtts
   # Celiac disease: Stable; will get Nutrition consult for dietery recs
   # FEN/GI - NPO / replete lytes /  IVF PRN
   # Access -   Trauma line - [**2161-3-21**] 02:26 AM
   # Code - DNR/I, confirmed with patient
   # Communication: With patient; contact: [**Name (NI) 2799**] [**Name (NI) 5052**] [**Telephone/Fax (1) 5053**]
   (cell), [**Telephone/Fax (1) 5054**] (home)
   # Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Trauma line - [**2161-3-21**] 02:26 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: